US05885986
A suspension of 15.5 g (0.0493 mol) of 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylic acid in 200 ml of dimethylformamide was treated portionwise with 8.07 g (0.0498 mol) of carbonyldiimidazole while gassing with argon. After completion of the CO2 evolution the mixture was stirred at 650 for 1 hr. After cooling to 0°-5° the clear solution obtained was treated with 8.62 g (0.0554 mol) of L-serine methyl ester hydrochloride and with 12.3 ml (0.0554 mol) of triethylamine and stirred at room temperature for 16 hrs. The suspension was completely freed from the solvents. The residue was partitioned between water and ethyl acetate and extracted. The yellow oily residue was chromatographed over silica gel with ethyl acetate as the eluent. There were obtained 17.09 g (95%) of methyl (S)-3-hydroxy-2-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepin-3-ylcarbonylamino)-propionate as a yellowish oil. An analytical sample was recrystallized from ethyl acetate and gave white crystals; m.p. 158°-160°. [α]D20 =+3.9° (CHCl3, c=1%).

reactant | 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylic acid | 0.0493 mol, 15.5 g | CN1CC=2N(C3=C(C1=O)SC=C3)C=NC2C(=O)O | C11H9N3O3S
reactant | carbonyldiimidazole | 0.0498 mol, 8.07 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | L-serine methyl ester hydrochloride | 0.0554 mol, 8.62 g | Cl.COC([C@@H](N)CO)=O
reactant | triethylamine | 0.0554 mol, 12.3 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | methyl (S)-3-hydroxy-2-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepin-3-ylcarbonylamino)-propionate | 17.09 g, 95% | OC[C@@H](C(=O)OC)NC(=O)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C15H16N4O5S
